US07622583B2
A mixture of (3-amino-5-chloro-pyridin-2-yl)-(2-chloro-phenyl)-methanone (26.8 mg. 0.10 mmol) and 3.4-dichloro-benzenesulfonyl chloride (24.5 mg, 0.10 mmol) in anhydrous pyridine (1 mL) were stirred overnight at 60° C. Reaction mixture was concentrated and the residue was treated with 1 M NaOH (5 mL) and THF(5 mL) to hydrolyze bis-sulfonamide. The resultant solution was neutralized to pH 6 and the aqueous layer was extracted with EtOAc. The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The was purified by preparative HPLC (20→90% gradient of MeCN-water) and pure product fractions were lyophilized to provide 3,4-dichloro-N[5-chloro-2-(2-chloro-benzoyl)-pyridin-3-yl]-benzenesulfonamide as a solid. MS m/z: 498.0 (M+Na).

reactant | (3-amino-5-chloro-pyridin-2-yl)-(2-chloro-phenyl)-methanone | 0.10 mmol, 26.8 mg | NC=1C(=NC=C(C1)Cl)C(=O)C1=C(C=CC=C1)Cl | C12H8Cl2N2O
reactant | 3.4-dichloro-benzenesulfonyl chloride | 0.10 mmol, 24.5 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-dichloro-N[5-chloro-2-(2-chloro-benzoyl)-pyridin-3-yl]-benzenesulfonamide | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C18H10Cl4N2O3S
